US07253286B2
N1-Phenyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide
After adding 28 mg of sodium hydride (60% in oil) to a solution of 3.0 g of 5-[(2-amino-4-pyridyl)oxy]-1H-indole in dimethylformamide at room temperature and stirring the mixture for 5 minutes, 1.6 g of phenyl isocyanate was added and the mixture was stirred for 20 minutes. Water was added, extraction was performed with ethyl acetate and the organic layer was washed with water, and then silica gel was added and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel and purified by column chromatography (ethyl acetate), to obtain 3.4 g of a colorless powder.

reactant | sodium hydride | 28 mg | [H-].[Na+]
reactant | 5-[(2-amino-4-pyridyl)oxy]-1H-indole | 3.0 g | NC1=NC=CC(=C1)OC=1C=C2C=CNC2=CC1 | C13H11N3O
reactant | phenyl isocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N1-Phenyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide | 3.4 g | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C20H16N4O2
